* C:\Users\Charlie\Desktop\ISCAD_GIP\LTspice parasitics\InverterUnbalancedDPT\InverterUnbalancedDPT_35-5-5DPT_48VDC_POST_ANALYTICAL_MODEL_scratch.asc
* Generated by LTspice 26.0.1 for Windows.
V_DC N014 0 {supply_voltage} Rser=0
C_DC1 C_DC1 N028 {DC_link_capacitor} Rser=0
C_snb1 N011 N019 {snubber_capacitor} Rser=0
L_ph V_D_high3 N018 {phase_inductance} Rser={phase_resistance}
X§M1 V_D_high1 V_G_high1 V_S_high1 IPTG011N08NM5_L0 ;§pnba D)G)S
X§M2 phase V_G_low1 V_S_low1 IPTG011N08NM5_L0 ;§pnba D)G)S
L_cm1[H] V_S_high1 phase {common_mode_inductance} Rser=20u
L_cm1[L] V_S_low1 low {common_mode_inductance} Rser=20u
L_pwr1 N019 low {power_loop_inductance} Rser=100u
C_snb2 N012 N020 {snubber_capacitor}
X§M3 V_D_high2 V_G_high2 V_S_high2 IPTG011N08NM5_L0 ;§pnba D)G)S
X§M4 N016 V_G_low2 V_S_low2 IPTG011N08NM5_L0 ;§pnba D)G)S
L_cm2[H] V_S_high2 N016 {common_mode_inductance} Rser=20u
L_cm2[L] V_S_low2 N026 {common_mode_inductance} Rser=20u
L_pwr2 N020 N026 {power_loop_inductance} Rser=100u
C_snb3 N013 N021 {snubber_capacitor}
X§M5 V_D_high3 V_G_high3 V_S_high3 IPTG011N08NM5_L0 ;§pnba D)G)S
X§M6 N018 V_G_low3 V_S_low3 IPTG011N08NM5_L0 ;§pnba D)G)S
L_cm3[H] V_S_high3 N018 {common_mode_inductance} Rser=20u
L_cm3[L] V_S_low3 N027 {common_mode_inductance} Rser=20u
L_pwr3 N021 N027 {power_loop_inductance} Rser=100u
L1 V_DClink N001 {DC_link_inductance} Rser=0
L2 N029 N028 {DC_link_inductance} Rser=0
R1 V_D_high1 N001 {DC_link_resistance}
R2 low N029 {DC_link_resistance}
L3 V_supply V_DClink {supply_inductance} Rser=1m
L4 N028 0 {supply_inductance} Rser=1m
R3 V_DClink C_DC1 {C_DC_ESR}
V1 N022 low PWL(0 0 {Tdelay} 0 {Tdelay+Trise} {Vgate} {Tdelay+Trise+T1} {Vgate} {Tdelay+Trise+T1+Tfall} 0 {Tdelay+Trise+T1+Tfall+T2} 0 {Tdelay+Trise+T1+Tfall+T2+Trise} {Vgate} {Tdelay+Trise+T1+Tfall+T2+Trise+T3} {Vgate} {Tdelay+Trise+T1+Tfall+T2+Trise+T3+Tfall} 0 {Tdelay+Trise+T1+Tfall+T2+Trise+T3+Tfall+5*Tdelay} 0)
L5 V_D_high1 N002 {branch_inductance} Rser=0
R5 V_D_high2 N002 {branch_resistance}
L6 V_D_high2 N003 {branch_inductance} Rser=0
R6 V_D_high3 N003 {branch_resistance}
L7 N030 low {branch_inductance} Rser=0
R7 N026 N030 {branch_resistance}
L8 N031 N026 {branch_inductance} Rser=0
R8 N027 N031 {branch_resistance}
L_g1 N022 N023 {gate_inductance} Rser=0
R_g1 N023 V_G_low1 {gate_resistor}
L_g2 N022 N024 {gate_inductance} Rser=0
L_g3 N022 N025 {gate_inductance} Rser=0
R_g2 N024 V_G_low2 {gate_resistor}
R_g3 N025 V_G_low3 {gate_resistor}
V3 N004 phase 0
L_g4 N004 N005 {gate_inductance} Rser=0
R_g4 N005 V_G_high1 {gate_resistor}
L_g5 N004 N006 {gate_inductance} Rser=0
L_g6 N004 N010 {gate_inductance} Rser=0
R_g5 N006 V_G_high2 {gate_resistor}
R_g6 N010 V_G_high3 {gate_resistor}
L9 phase N015 {branch_inductance} Rser=1m
R4 N016 N015 {branch_resistance}
L10 N016 N017 {branch_inductance} Rser=1m
R9 N018 N017 {branch_resistance}
R10 V_D_high1 N011 {snubber_resistor}
R11 V_D_high2 N012 {snubber_resistor}
R12 V_D_high3 N013 {snubber_resistor}
D1 N014 V_supply currentLimit
.model D D
.lib C:\Users\Charlie\AppData\Local\LTspice\lib\cmp\standard.dio
.param D=0.013
.param f_SW = 25k
.param period = {1/f_SW}
* .options reltol=1e-3 abstol=1e-12 vntol=1e-6 ; standard
.include ../OptiMOS5_80V_LTSpice.lib
.param snubber_capacitor=9.9e-08
.param DC_link_capacitor = 0.000132
.param supply_voltage =48
* .param phase_resistance = 165m
* .param phase_inductance = 73.5u
.param I_ph_RMS = 140
.param I_RMS_MOSFET = (I_ph_RMS)*(sqrt(D))
.param Maximum_junction_temperature = 175
.param rds_on = 1.1m
.param common_mode_inductance = 1e-09
.param power_loop_inductance = 3.8e-09
.param gate_resistor = 5.1
.param gate_inductance = 2e-08
* SETUP
* MOSFETs
* OPERATING POINT
* PARASITIC INDUCTANCES
* PASSIVES
.param Vgate = 15
* .step param gate_resistor 1 6 2
.param DC_link_inductance = 5.65e-09
* ASSUME: symmetrical power loops
* TRACE + BUS BAR RESISTANCES NOT YET ESTIMATED\n- Bus bar resistance: 12x0.5mm, approx 2.8uOhm/mm
* ASSUME: balanced parallel MOSFETs
* GATE DRIVE loops modelled as unbalanced
* .param supply_inductance = 1m
* PARASITIC RESISTANCES
.param DC_link_resistance = 0.00015
* .param C_DC_ESR = 0.00048
* OneNote > Capacitor Reanalysis (DC)
* 33n per cap. OneNote > Snubber Capacitors (DC) (should be u not n??)
* OneNote > 3 slot (CG)
* OneNote > 3 slot (CG)
.options plotwinsize=0 ; allows viewing waveform after abort
* parasitics are capacitance/inductance/resistance\npassive components are capacitor/inductor/resistor\nhigh and low side elements have [H] and [L] appended to name\nG_CC = common reference voltage, phase output etc.\nGD = gate drive\nG = gate\nD = drain\nS = source
.options maxstep=10n ; pushes through transient reponse of reactive components
* .options reltol=3e-3 abstol=1e-9 vntol=1e-3 ; very relaxed
* .options reltol=10e-3 abstol=1e-9 vntol=1e-4 ; relaxed to supress numerical noise
* PWM (for DPT)
* L_pwr:    ESR = 100u (approx 30mm of bus bar)
* L_cm[H], L_cm[L}:    ESR = 0 (series resistance present on DC link)
* L_n:    ESR = 50u (approx 15mm bus bar)
* OneNote > Lab > Power Supply Requirements
.param C_snb_ESR = 0.001
.param C_DC_ESR = 0.00048
* OneNote > PCB > DC Link Capacitor Reanalysis for (for CAA573X7S2A476M640LH)
* approx 50mm bus bar
* approx 3m per cap. OneNote > PCB > Snubber Capacitors
.param T1 = 35u
.param T2 = 5u
.param T3 = 5u
.param Trise = 95n
* .step param Trise 70n 120n 25n
.param Tfall = 85n
.param Tsim={Tdelay+Trise+T1+Tfall+T2+Trise+T3+Tfall+50u}
.tran 0 {Tsim} 240u uic
.param Tdelay= 250u     ; settling time before first pulse, charges MOSFET capactitance
.ic  V(C_DC1) = {supply_voltage}
* .step param gate_inductance 10 50 10
.options method=gear ; numerical damping
* .options reltol=3e-3 abstol=1e-10 vntol=1e-5 gmin=1e-10 cshunt=1e-15; relaxed
* .options numdgt=7 ; reduce compression of waveform data
.ic V(V_D_high1) = {supply_voltage}
+ V(V_D_high2) = {supply_voltage}
+ V(V_D_high3) = {supply_voltage}
* .save V(n014) dialogbox
.ic V(V_DClink) = {supply_voltage}
* NOMENCLATURE
* <Filename_Model.asc>
* <Filename_Model_PlotsDescriptor.plt>
.options gmin=1e-7 cshunt=1e-12
.ic V(V_supply)=48
.param branch_inductance = 1.2e-08
.param branch_resistance = 2e-05
.options reltol=10e-3 abstol=1e-8 vntol=1e-3 ; relaxed to supress numerical noise
.param Vlogic = 5
* 18mm spacing per brach
* UNCERTAIN
* .options reltol=10e-3 abstol=1e-7 vntol=1e-3 ; relaxed to supress numerical noise
.param phase_inductance = 36u
.param phase_resistance = 170m
.param supply_inductance = 1n
.param snubber_resistor = 2.7
.model currentLimit D(Ron=1m Vfwd=1m Roff=1meg vrev=1k epsilon=0.1 revepsilon=1 ilimit=1)
* SWEEPS
* .step param power_loop_inductance 2 10 2
* .step param branch_inductance 5 30 5
.backanno
.end
